US06353006B1
(1S)-1-(Hydroxymethyl)-3-methylbutylamine was made from (L)-leucine methyl ester as described in Method B1b. The 2-hydroxyethylamine was converted to (1S)-1-(chloromethyl)-3-methylbutanammonium chloride as described in Method B7a. 2,3-Dichlorophenyl isothiocyanate was reacted with (1S)-1-(chloromethyl)-3-methylbutanammonium chloride according to Method C1a to give (4S)-2-(2,3-dichlorophenylimino)-4-isobutyl-1,3-thiazolidine. The thiazolidine was reacted with 3-bromopentane according to Method D2a to afford (4S)-2-(N-(3-pentyl)-2-methyl-4-nitrophenylamino)-4-isobutyl-1,3-thiazoline.

reactant | (1S)-1-(Hydroxymethyl)-3-methylbutylamine | OC[C@H](CC(C)C)N | C6H15NO
reactant | (L)-leucine methyl ester | COC([C@@H](N)CC(C)C)=O | C7H15NO2
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
reactant | 2,3-Dichlorophenyl isothiocyanate | ClC1=C(C=CC=C1Cl)N=C=S | C7H3Cl2NS
product | (4S)-2-(2,3-dichlorophenylimino)-4-isobutyl-1,3-thiazolidine | ClC1=C(C=CC=C1Cl)N=C1SC[C@@H](N1)CC(C)C | C13H16Cl2N2S
